US08735412B2
(RS)-S-(4-{[4-{[(1R,2R)-2-(Benzyloxy)-1-methylpropyl]oxy}-5-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-S-cyclopropyl-N-(trifluoroacetyl)sulfoximide
0.96 ml of 4N solution of hydrogen chloride in dioxane was added to 1.39 g (3.85 mmol) of 4-((1R,2R)-2-benzyloxy-1-methyl-propoxy)-2-chloro-5-trifluoromethyl-pyrimidine and 1.35 g (4.62 mmol) (RS)-S-(4-aminophenyl)-S-cyclopropyl-N-(trifluoroacetyl)sulfoximide in 18.8 ml acetonitrile and stirred for 5 hours at 80° C. After cooling, the mixture was diluted with ethyl acetate and washed with saturated sodium hydrogencarbonate solution and saturated sodium chloride solution, dried (Na2SO4), filtered and concentrated by evaporation. The residue obtained was purified chromatographically (hexane/ethyl acetate 4:1). 1.32 g (2.14 mmol, yield: 56%) of the product was obtained.

reactant | hydrogen chloride | Cl | ClH
reactant | 4-((1R,2R)-2-benzyloxy-1-methyl-propoxy)-2-chloro-5-trifluoromethyl-pyrimidine | 3.85 mmol, 1.39 g | C(C1=CC=CC=C1)O[C@@H]([C@H](OC1=NC(=NC=C1C(F)(F)F)Cl)C)C | C16H16ClF3N2O2
reactant | (RS)-S-(4-aminophenyl)-S-cyclopropyl-N-(trifluoroacetyl)sulfoximide | 4.62 mmol, 1.35 g | NC1=CC=C(C=C1)S(=O)(=NC(C(F)(F)F)=O)C1CC1 | C11H11F3N2O2S
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 18.8 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (RS)-S-(4-{[4-{[(1R,2R)-2-(Benzyloxy)-1-methylpropyl]oxy}-5-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-S-cyclopropyl-N-(trifluoroacetyl)sulfoximide | 2.14 mmol, 1.32 g, yield: 56% | C(C1=CC=CC=C1)O[C@@H]([C@@H](C)OC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)S(=O)(=NC(C(F)(F)F)=O)C1CC1)C | C27H26F6N4O4S
